US08536179B2
8b) 3-(Aminomethyl)-4-methyl-6-propyl-2(1H)-pyridinone
Sodium acetate (3.5 g, 42.6 mmol), palladium on carbon (0.81 g) and platinum oxide (0.1 g) were placed in a dried Parr bottle flushed with nitrogen, followed by addition of a small amount of acetic acid (to wet the catalysts). A solution of 4-methyl-2-oxo-6-propyl-1,2-dihydro-pyridine-3-carbonitrile (5 g, 28 mmol) in acetic acid was added to the Parr bottle followed by additional acetic acid (200 mL). The vessel was capped, placed on Parr apparatus and hydrogenated at 45 psi for 12 h. The reaction mixture was filtered and the filtrate concentrated in vacuo. The crude product was purified by preparative HPLC to afford the title compound (TFA salt) as 4.1 g (87%). LCMS E-S (M+H))=181.1. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.8-11.9 (br s, 1H), 7.83-7.88 (br s, 3H), 5.99 (s, 1H), 3.77-3.81 (m, 2H), 2.37 (t, 2H), 1.53 (m, 2H), 0.83 (t, 3H).

reactant | Sodium acetate | 42.6 mmol, 3.5 g | C(C)(=O)[O-].[Na+]
reactant | 4-methyl-2-oxo-6-propyl-1,2-dihydro-pyridine-3-carbonitrile | 28 mmol, 5 g | CC1=C(C(NC(=C1)CCC)=O)C#N | C10H12N2O
catalyst | palladium on carbon | 0.81 g | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.1 g | [Pt]=O
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 3-(Aminomethyl)-4-methyl-6-propyl-2(1H)-pyridinone | NCC=1C(NC(=CC1C)CCC)=O | C10H16N2O
